US09388195B2
G) Production of benzyl 1-(chlorocarbonyl)-7-azabicyclo[2.2.1]heptane-7-carboxylate
To a mixture of 7-[(benzyloxy)carbonyl]-7-azabicyclo[2.2.1]heptane-1-carboxylic acid (550 mg) produced above, N,N-dimethylformamide (0.02 mL) and tetrahydrofuran (10 mL) was added dropwise ethanedioyl dichloride (0.80 mL) at room temperature. The mixture was stirred at room temperature for 30 min, and the reaction system was concentrated under reduced pressure. To the residue was added a small amount of tetrahydrofuran, and the mixture was concentrated again under reduced pressure to give a crude product (2.0 mmol) of the title compound. The obtained crude product of the title compound was used for the next reaction without further purification.

reactant | 7-[(benzyloxy)carbonyl]-7-azabicyclo[2.2.1]heptane-1-carboxylic acid | 550 mg | C(C1=CC=CC=C1)OC(=O)N1C2(CCC1CC2)C(=O)O | C15H17NO4
reactant | N,N-dimethylformamide | 0.02 mL | CN(C=O)C | C3H7NO
reactant | ethanedioyl dichloride | 0.80 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | benzyl 1-(chlorocarbonyl)-7-azabicyclo[2.2.1]heptane-7-carboxylate | ClC(=O)C12CCC(CC1)N2C(=O)OCC2=CC=CC=C2 | C15H16ClNO3
